### PR TITLE
[Merged by Bors] - feat(Analysis): generalise `eVariationOn` to `WeakPseudoEMetricSpace`

### PR DESCRIPTION
**Pull request by felixpernegger**
Generalize the definition of `eVariationOn` for the underlying space `E` to be a `WeakPseudoEMetricSpace` (as well as theorems about/using the variation). In particular, now `E` can be `ENNReal` for example.

Some theorems can not be generalised from `PseudoEMetricSpace` to `WeakPseudoEMetricSpace` of course. Most of them seem to be related to convergence and continuity. This is not surprising, since for instance `EMetric.tendsto_nhds` does not hold for `WeakPseudoEMetricSpace` (again think of `ENNReal`).
Maybe with some effort more can be generalized, but I havent looked into that. I used the letter `M`(etric) instead of `E` for those who couldnt be generalized, as `F` was already used in the main file....

(The main changes live in Mathlib/Topology, but `eVariationOn` arguably belongs more to Analysis, which is why I added it in the PR title, maybe the file should even be moved)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by felixpernegger** [comment]
-t-topology

**Comment by felixpernegger** [comment]
t-analysis

File: Mathlib/Analysis/ConstantSpeed.lean [hunk 1]
```diff
@@ -115,7 +115,7 @@ theorem HasConstantSpeedOnWith.union {t : Set ℝ} (hfs : HasConstantSpeedOnWith
         exacts [Or.inl ⟨ws, zw, hs.2 ws⟩, Or.inr ⟨wt, ht.2 wt, wy⟩]
       · rintro (⟨ws, zw, wx⟩ | ⟨wt, xw, wy⟩)
         exacts [⟨Or.inl ws, zw, wx.trans (ht.2 yt)⟩, ⟨Or.inr wt, (hs.2 zs).trans xw, wy⟩]
-    rw [this, @eVariationOn.union _ _ _ _ f _ _ x, hfs zs hs.1 (hs.2 zs), hft ht.1 yt (ht.2 yt)]
+    rw [this, @eVariationOn.union _ _ _ _ _ f _ _ x, hfs zs hs.1 (hs.2 zs), hft ht.1 yt (ht.2 yt)]
```
Comment (j-loreaux) [inline Mathlib/Analysis/ConstantSpeed.lean]: I know it's not the purpose of this PR, but can you switch this to `eVariationOn.union (_ := f) (_ := x)` syntax, with the `_` appropriately filled in?

File: Mathlib/Analysis/ConstantSpeed.lean [hunk 2]
```diff
@@ -253,7 +253,7 @@ theorem has_unit_speed_naturalParameterization (f : α → E) {s : Set α}
     rw [←
       eVariationOn.comp_inter_Icc_eq_of_monotoneOn (naturalParameterization f s a) _
         (variationOnFromTo.monotoneOn hf as) bs cs]
-    rw [@eVariationOn.eq_of_edist_zero_on _ _ _ _ _ f]
+    rw [@eVariationOn.eq_of_edist_zero_on _ _ _ _ _ _ f]
```
Comment (j-loreaux) [inline Mathlib/Analysis/ConstantSpeed.lean]: likewise

**Review by j-loreaux — COMMENTED** [review]
bors d+
